US06900226B2
2-Methyl-7-phenyl-4-pyrrolidin-1-yl-quinoline; Compound with Formic Acid:
To a solution of 43 mg (0.13 mmol) 7-Iodo-2-methyl-4-pyrrolidin-1-yl-quinoline in 1.2 ml dioxane/dimethoxyethane 1:1 was added 39.6 mg (0.325 mmol) phenyl-boronic acid, 6 mg (0.007 mmol) Dichloro[1,1′-Bis(diphenylphosphino)-ferrocene]palladium (II) dichloromethan adduct, and 0.55 ml 2M Na2CO3aq. and the mixture was heated to 85° C. for 12 h. After filtration the mixture was purified by reversed phase column chromatography eluting with an acetonitrile/water (formic acid) gradient yielding 25 mg (57%) of the title compound. MS m/e (%): 289.4 (MH+, 100).

reactant | 7-Iodo-2-methyl-4-pyrrolidin-1-yl-quinoline | 0.13 mmol, 43 mg | IC1=CC=C2C(=CC(=NC2=C1)C)N1CCCC1 | C14H15IN2
reactant | phenyl-boronic acid | 0.325 mmol, 39.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dioxane dimethoxyethane | 1.2 ml | O1CCOCC1.C(OC)COC
catalyst | Dichloro[1,1′-Bis(diphenylphosphino)-ferrocene]palladium (II) dichloromethan adduct | 0.007 mmol, 6 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-Methyl-7-phenyl-4-pyrrolidin-1-yl-quinoline; Compound with Formic Acid | 25 mg, 57% | C(=O)O.CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)C1=CC=CC=C1 | InChI=1S/C20H20N2.CH2O2/c1-15-13-20(22-11-5-6-12-22)18-10-9-17(14-19(18)21-15)16-7-3-2-4-8-16;2-1-3/h2-4,7-10,13-14H,5-6,11-12H2,1H3;1H,(H,2,3)
